US07399774B2
4-(1-Oxo-indan-5-yloxy)-benzonitrile
Combine 5-Hydroxyindanone (2.0 g, 13.50 mmol), 4-Fluorobenzonitrile (1.55 g, 12.80 mmol), K2CO3 (2.65 g, 19.20 mmol) and toluene/DMA (20 ml/40 ml), reflux under Nitrogen using a Dean-Stark Trap. After 4.0 hours, cool the reaction to room temperature and add Ethyl Acetate. Wash several times with 10% LiCl and Brine solution, then dry the organic layer over Na2SO4 follow by concentration. Flash chromatograph using 4/1 then 1/1 hexanes/ethyl acetate eluant to afford 1.64 g, 6.57 mmol (49% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 2.7-2.8 (2H, m), 3.1-3.2 (2H, m), 7.0-7.1 (2H, m), 7.1-7.2 (2H, m), 7.6-7.7 (2H, m), 7.7-7.8 (1H, m); MS m/z 250 (M+1).

reactant | 5-Hydroxyindanone | 13.50 mmol, 2.0 g | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | 4-Fluorobenzonitrile | 12.80 mmol, 1.55 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | K2CO3 | 19.20 mmol, 2.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene DMA | 20 ml | C1(=CC=CC=C1)C.CC(=O)N(C)C
solvent | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-Oxo-indan-5-yloxy)-benzonitrile | 6.57 mmol, 1.64 g, 49% yield | O=C1CCC2=CC(=CC=C12)OC1=CC=C(C#N)C=C1 | C16H11NO2
